US08283354B2
A mixture of N-((R)-pyrrolidin-3-yl)cyclopropanecarboxamide (250 mg, 0.86 mmol), 2-(4-chloro-6-fluoroquinazolin-2-yl)phenol (250 mg, 0.86 mmol) and triethylamine (0.240 mL, 1.72 mmol) in CH2Cl2 (10 mL) was stirred at room temperature. The reaction was complete after one hour. The reaction was quenched with water, the aqueous layer was extracted twice with CH2Cl2, and the combined organic extracts were dried over MgSO4, filtered, and concentrated. Purification via silica gel chromatography using 0-10% EtOAc/CH2Cl2 gave N-((R)-1-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)pyrrolidin-3-yl)cyclopropanecarboxamide (230 mg, 68%). LC/MS: m/z 393.3 (M+H)+ at 2.35 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.42-8.46 (m, 2H), 8.03 (dd, J=10.5, 2.6 Hz, 1H), 7.88-7.92 (m, 1H), 7.74-7.79 (m, 1H), 7.35-7.39 (m, 1H), 6.92-6.96 (m, 2H), 4.44-4.47 (m, 1H), 4.01-4.28 (m, 3H), 3.83-3.87 (m, 1H), 2.20-2.28 (m, 1H), 1.99-2.06 (m, 1H), 1.51-1.57 (m, 1H), 0.63-0.73 (m, 4H).

reactant | N-((R)-pyrrolidin-3-yl)cyclopropanecarboxamide | 0.86 mmol, 250 mg | N1C[C@@H](CC1)NC(=O)C1CC1 | C8H14N2O
reactant | 2-(4-chloro-6-fluoroquinazolin-2-yl)phenol | 0.86 mmol, 250 mg | ClC1=NC(=NC2=CC=C(C=C12)F)C1=C(C=CC=C1)O | C14H8ClFN2O
reactant | triethylamine | 1.72 mmol, 0.240 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-((R)-1-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)pyrrolidin-3-yl)cyclopropanecarboxamide | 230 mg, 68% | FC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1C[C@@H](CC1)NC(=O)C1CC1 | C22H21FN4O2
